US07442797B2
Preparation of 6-bromo-2,2′-bipyridine
In a nitrogen atmosphere, a THF (5 ml) solution of bromopyridine (0.5 g) was cooled to −78° C., then a hexane solution of n-butyllithium (1.57 M, 2 ml) was added dropwise thereto, after dropwise, the mixture was stirred at 0° C. for 3 hours. Thereafter, a THF solution of zinc chloride (3.15 g) was added dropwise to the mixture, after dropwise, the mixture was stirred for 3 hours. Next, 2,6-dibromopyridine (0.75 g) and tetrakis(triphenylphosphine)palladium (146 mg) were added to the mixture at room temperature, and the mixture was refluxed for 1 day. After the reaction mixture was allowed to cool, to which was then added water, the mixture was extracted with toluene, the solvent was distilled off, and the residue was purified by silica gel column chromatography, thereby obtaining desired compound as white crystal (0.5 g).

reactant | bromopyridine | 0.5 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 1.57 M, 2 ml | C(CCC)[Li]
reactant | 2,6-dibromopyridine | 0.75 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
catalyst | zinc chloride | 3.15 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 146 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-bromo-2,2′-bipyridine | 0.5 g | BrC1=CC=CC(=N1)C1=NC=CC=C1 | C10H7BrN2
